US07674795B2
In a 20 ml sealed tube, dissolve 330 mg of 4-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-9H-fluoren-9-one, obtained in the previous stage, in 12 ml of dimethyl sulphoxide and then heat at 200° C. for one hour. After cooling, add 30 ml of water and then extract 3 times with 100 ml of ethyl acetate. The crude solid obtained is purified by flash chromatography on silica gel (40-63 μm), eluting with a mixture of dichloromethane and methanol (97/3 by volume). In this way, we obtain 210 mg of 4-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-9H-fluoren-9-one, in the form of a yellow powder, which is used as it is in the following stage, with the following characteristics:

reactant | 4-(3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-yl)-9H-fluoren-9-one | 330 mg | N1C(=NC2C1CCCC2)C2=CC=CC=1C(C3=CC=CC=C3C21)=O | C20H18N2O
reactant | water | 30 ml | O | H2O
solvent | dimethyl sulphoxide | 12 ml | CS(=O)C | C2H6OS
product | 4-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-9H-fluoren-9-one | 210 mg | N1C(=NC2=C1CCCC2)C2=CC=CC=1C(C3=CC=CC=C3C21)=O | C20H16N2O
